US08071586B2
C) ((S)-3-Benzyloxy-1-methoxymethyl-propyl)-carbamic acid tert-butyl ester
Silver(I) oxide (4.49 g, 19.4 mmol) and iodomethane (2.75 g, 19.4 mmol) were added at room temperature to a solution or ((S)-3-benzyloxy-1-hydroxymethyl-propyl)-carbamic acid tert-butyl ester (2.60 g, 8.81 mmol) in N,N-dimethylformamide (8 mL). The reaction mixture was heated at 40° C. for 2.5 h, then insoluble material was removed by filtration through diatomaceous earth. After evaporation of the filtrate, the residue was taken up in ethyl acetate and washed with water. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated to afford the title compound (2.72 g, 100%), which was used without further purification. Colorless liquid, MS (ISP)=310.3 (M+H)+.

reactant | iodomethane | 19.4 mmol, 2.75 g | IC | CH3I
reactant | ((S)-3-benzyloxy-1-hydroxymethyl-propyl)-carbamic acid tert-butyl ester | 8.81 mmol, 2.60 g | C(C)(C)(C)OC(N[C@@H](CCOCC1=CC=CC=C1)CO)=O | C16H25NO4
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
catalyst | Silver(I) oxide | 19.4 mmol, 4.49 g | [Ag-]=O
product | ((S)-3-Benzyloxy-1-methoxymethyl-propyl)-carbamic acid tert-butyl ester | 2.72 g, 100% | C(C)(C)(C)OC(N[C@@H](CCOCC1=CC=CC=C1)COC)=O | C17H27NO4
